US07691867B2
A mixture of sodium hydride (60% in oil, 7.67 g, 189.6 mmol) and dimethylacetamide (160 ml) were cooled in an ice-bath under a nitrogen atmosphere and then ethylene glycol (18.2 g, 284 mmol) was slowly added. The reaction mixture was warmed to 60° C. for 10 minutes and then 7-fluoroquinazolin-4-ol (7.75 g, 47.3 mmol) was slowly added. The reaction mixture was heated to 110° C. for 16 hours and then the mixture was concentrated to approximately half volume. The mixture was poured into water and the pH of the solution was adjusted to 5 with dilute hydrochloric acid. The resultant precipitate was filtered and then dried in a vacuum oven at 65° C. for 16 hours. The residue was triturated with diethyl ether to give 7-(2-hydroxyethoxy)quinazolin-4-ol (4.4 g) as an off white solid which was used in subsequent steps without further purification: MS (+ve ESI): 207 (M+H)+ MS (−ve ESI): 205 (M−H)−.

reactant | sodium hydride | 189.6 mmol, 7.67 g | [H-].[Na+]
reactant | ethylene glycol | 284 mmol, 18.2 g | C(CO)O | C2H6O2
reactant | 7-fluoroquinazolin-4-ol | 47.3 mmol, 7.75 g | FC1=CC=C2C(=NC=NC2=C1)O | C8H5FN2O
solvent | dimethylacetamide | 160 ml | CC(=O)N(C)C | C4H9NO
product | 7-(2-hydroxyethoxy)quinazolin-4-ol | 4.4 g | OCCOC1=CC=C2C(=NC=NC2=C1)O | C10H10N2O3
